US07470723B2
To a stirred solution of (3-ethoxy-4-methoxy-phenyl)-(3-methoxy-phenyl) -methanol (1.75 g, 6.1 mmol) in CH2Cl2 (20 mL) at room temperature was added activated MnO2 powder (3.5 g, 40 mmol) and kept adding 23 equivalents of MnO2 every 35 h until HPLC showed disappearance of the starting material. The black suspension was filtered through a Celite pad, concentrated in vacuo to give (3-ethoxy-4-methoxy-phenyl)-(3-methoxy-phenyl)-methanone as an off-white solid (1.60 g, 92% yield): 1H NMR (CDCl3) δ 1.53 (t, J=7 Hz, 3H, CH2CH3), 3.86 (s, 3H, OCH3), 3.96 (s, 3H, OCH3), 4.17 (q, J=7 Hz, 2H, CH2CH3), 6.90 (d, J=8 Hz, 1H, Ar), 7.09-7.14 (m, 1H, Ar), 7.29-7.49 (m, 5H, Ar). The product was used in the next step without further purification.

reactant | (3-ethoxy-4-methoxy-phenyl)-(3-methoxy-phenyl) -methanol | 6.1 mmol, 1.75 g | C(C)OC=1C=C(C=CC1OC)C(O)C1=CC(=CC=C1)OC | C17H20O4
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 40 mmol, 3.5 g | O=[Mn]=O
catalyst | MnO2 | 23 equivalents | O=[Mn]=O
product | (3-ethoxy-4-methoxy-phenyl)-(3-methoxy-phenyl)-methanone | 1.60 g, 92% yield | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=CC=C1)OC | C17H18O4
